US08044209B2
A solution of ((S)-1-Cyclohexyl-2-{(S)-2-[2-(1H-indol-3-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-2-oxo-ethyl)-carbamic acid tert-butyl ester (120 mg, 0.24 mmol) in DCM (2 mL) is added TFA (2 mL). After stirring at room temperature for 1 h, the reaction mixture is concentrated down to give crude (S)-2-Amino-2-cyclohexyl-1-{(S)-2-[2-(1H-indole-3-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-ethanone, which is used in next step without purification.

reactant | ((S)-1-Cyclohexyl-2-{(S)-2-[2-(1H-indol-3-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-2-oxo-ethyl)-carbamic acid tert-butyl ester | 0.24 mmol, 120 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1[C@@H](CCC1)C1=CC(=NC=C1)C1=CNC2=CC=CC=C12)C1CCCCC1)=O | C30H38N4O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-2-cyclohexyl-1-{(S)-2-[2-(1H-indole-3-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-ethanone | N[C@H](C(=O)N1[C@@H](CCC1)C1=CC(=NC=C1)C1=CNC2=CC=CC=C12)C1CCCCC1 | C25H30N4O
